US07989633B2
Cyclobutyl 5-acetyl-2,6-dimethyl-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate
80 mg (0.26 mmol) of 3-[(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione are dissolved with 40.4 mg (0.26 mmol) of cyclobutyl 3-aminocrotonate in 2 ml of 2-propanol and heated under reflux under argon for 12 h. The solvent is removed in vacuo, and the residue is purified by column chromatography (mobile phase: ethyl acetate/cyclohexane 1:2). 31.0 mg (27% of theory) of the title compound are obtained as a yellow solid.

reactant | 3-[(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione | 0.26 mmol, 80 mg | FC1=C2C(C=C(OC2=C(C=C1F)C=C(C(C)=O)C(C)=O)C)=O | C16H12F2O4
reactant | cyclobutyl 3-aminocrotonate | 0.26 mmol, 40.4 mg | N\C(=C/C(=O)OC1CCC1)\C | C8H13NO2
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | Cyclobutyl 5-acetyl-2,6-dimethyl-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OC1CCC1)C=1C=C(C(=C2C(C=C(OC12)C)=O)F)F | C24H23F2NO5
